US08420816B2
Step B: (R)-3-Methyl-2-(3-oxopyrrolo [4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid
A mixture of (R)-tert-Butyl 3-methyl-2-(3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoate (840 mg, 1.74 mmol), MeOH (4 mL), and aqueous NaOH (1N, 2 mL) was stirred for 40 min at room temperature. The material was diluted with DCM and washed with brine. The organics were dried over MgSO4 and concentrated in vacuo. Purification by silica gel chromatography (5% MeOH/DCM) gave a yellow oil (390 mg), which dissolved in TFA/DCM (50%) and stirred at room temperature for 1 h. The solution was concentrated and dried under vacuum to give the title compound as a tan solid (320 mg, 67%). 1H NMR (500 MHz, CD3OD) δ 0.88 (d, J=7.0 Hz, 3H), 1.10 (d, J=7.0 Hz, 3H), 2.35-2.44 (m, 1H), 4.95-5.33 (m, 3H), 7.34 (d, J=6.0 Hz, 1H), 7.90 (s, 1H), 8.33 (d, J=6.0 Hz, 1H). [M+H] calc'd for C14H15N3O3, 274; found, 274.

reactant | (R)-tert-Butyl 3-methyl-2-(3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoate | 1.74 mmol, 840 mg | CC([C@H](C(=O)OC(C)(C)C)N1CC=2C=CN=C3C2C(C1=O)=CN3S(=O)(=O)C3=CC=C(C)C=C3)C | C25H29N3O5S
reactant | MeOH | 4 mL | CO | CH4O
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-3-Methyl-2-(3-oxopyrrolo [4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid | 390 mg | CC([C@H](C(=O)O)N1CC=2C=CN=C3C2C(C1=O)=CN3)C | C14H15N3O3
